US05294734
3.0 g (62.4 mmol) of 50% sodium hydride dispersion in mineral oil are placed in 50 ml of tetrahydrofuran and 40 ml of dimethylformamide, a solution of 10.0 g (62.4 mmol) of 3-hydroxy-2-methylenepropionaldehyde-diethylacetal in 10 ml of tetrahydrofuran is slowly added dropwise at 0°, and the mixture is stirred at 0° for 2 hours. The mixture is diluted with 15 ml of tetrahydrofuran and 10 ml of dimethylformamide and stirred at room temperature for a further 2 hours. 7.2 ml (62.4 mmol) of benzyl chloride in 10 ml of dimethylformamide are then added at 0°, and the mixture is stirred at room temperature for 18 hours. Water is added to the reaction mixture, which is then extracted three times with ethyl acetate, and the organic phases are washed with saturated sodium chloride solution. The organic phases are combined, dried over Na2SO4, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride, yielding 3-benzyloxy-2-methylenepropionaldehyde-diethylacetal in the form of a pale yellowish liquid.

reactant | sodium hydride | 62.4 mmol, 3.0 g | [H-].[Na+]
reactant | 3-hydroxy-2-methylenepropionaldehyde-diethylacetal | 62.4 mmol, 10.0 g | C(C)OC(C(CO)=C)OCC | C8H16O3
reactant | benzyl chloride | 62.4 mmol, 7.2 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-benzyloxy-2-methylenepropionaldehyde-diethylacetal | C(C)OC(C(COCC1=CC=CC=C1)=C)OCC | C15H22O3
